US04198412
5-Phenylpyrazolo[1,5-c]quinazoline-2-carboxylic acid, methyl ester
500 mg (0.0023 mole) of the methyl ester of 5-(2-aminophenyl)-1H-pyrazole-3-carboxylic acid and 5.2 g (0.023 mole) of benzoic anhydride are heated together at 255° for 1 hour and at 150° for 5 hours. The reaction mixture is cooled and the resulting solid taken up in 40 ml of water and treated portionwise with sodium bicarbonate. The aqueous solution is layered with 50 ml of methylene chloride and stirred for 30 minutes. The organic layer is then separated, dried over anhydrous sodium sulfate and chromatographed on a silica gel column (15 g), eluting the column successively with CH2Cl2 (25 ml), CH2Cl2 :EtOAc (8:2, 75 ml) and CH2Cl2 :EtOAc (1:1; 70 ml).

reactant | 5-(2-aminophenyl)-1H-pyrazole-3-carboxylic acid | NC1=C(C=CC=C1)C1=CC(=NN1)C(=O)O | C10H9N3O2
reactant | benzoic anhydride | 0.023 mole, 5.2 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | 5-Phenylpyrazolo[1,5-c]quinazoline-2-carboxylic acid, methyl ester | C1(=CC=CC=C1)C1=NC=2C=CC=CC2C=2N1N=C(C2)C(=O)OC | C18H13N3O2
